US04319916
3-Dichloroacetyl-1-methyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone
A 4.5 g. portion of 3-acetyl-1-methyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone was dissolved in 125 ml. of dichloromethane, and 2 g. of N-chlorosuccinimide was added. The mixture was stirred under reflux for 60 hours. The mixture was then cooled, and washed successively with 150 ml. each of 1 N sodium hydroxide, 1 N hydrochloric acid, and saturated sodium chloride solution. It was then dried over magnesium sulfate, and evaporated under vacuum to obtain a tan solid. The residue was chromatographed on a 350 g. silica gel column, with 1:10 ethyl acetate:dichloromethane as the eluting solvent. The first product off the column was the dichloroacetyl compound of Example 22, m.p. 184°-186° C., of which 0.6 g. was obtained. Nmr analysis in DMSOd6 showed the following peaks: δ8.4 (s, 1H, CHCl2); 7.6-8.3 (m, 6H, aromatic); 3.9 (s, 3H, N--CH3).

reactant | 3-acetyl-1-methyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone | C(C)(=O)C1=CN(C=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)C | C15H12F3NO2
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dichloromethane | ClCCl | CH2Cl2
product | 3-Dichloroacetyl-1-methyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone | ClC(C(=O)C1=CN(C=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)C)Cl | C15H10Cl2F3NO2
